US07842685B2
Synthesized from 1-bromo-2-fluoro-4-methylbenzene (10 g, 53 mmol) and 2,6-dichloro-3-isothiocyanatopyridine (11 g, 53 mmol) according to the procedure for the synthesis of intermediate (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylvinyl)-thiazolo[5,4-b]pyridine) to give 2-(2-fluoro-4-methylphenyl)-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine as a tan solid. MS (ESI) m/z: calculated: 346.1; Observed: 347.1 (M++1).

reactant | 1-bromo-2-fluoro-4-methylbenzene | 53 mmol, 10 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | 2,6-dichloro-3-isothiocyanatopyridine | 53 mmol, 11 g | ClC1=NC(=CC=C1N=C=S)Cl | C6H2Cl2N2S
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylvinyl)-thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1=CC=CC=C1)F | C24H19FN2O2S
product | 2-(2-fluoro-4-methylphenyl)-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine | FC1=C(C=CC(=C1)C)C=1SC2=NC(=CC=C2N1)C(=C)C1=CC=CC=C1 | C21H15FN2S
